US06444694B1
A solution of 2-furanacrylonitrile (10.9 g; 91 mmol) in EtOH (75 mL) was cooled in an ice bath. The cold mixture was then saturated with hydrogen chloride. The reaction solution was refrigerated for 18 hours. The reaction mixture was concentrated to 20 mL and diethyl ether was added. The brown solid gave 10.5 g (63% yield) of 2-Furanacryloimidate hydrochloride which was used in the next reaction.

reactant | 2-furanacrylonitrile | 91 mmol, 10.9 g | O1C(=CC=C1)C=CC#N | C7H5NO
reactant | hydrogen chloride | Cl | ClH
reactant | EtOH | 75 mL | CCO | C2H6O
product | 2-Furanacryloimidate hydrochloride | 10.5 g, 63% yield | Cl.O1C(=CC=C1)C=CC(O)=N | InChI=1S/C7H7NO2.ClH/c8-7(9)4-3-6-2-1-5-10-6;/h1-5H,(H2,8,9);1H
